US09085570B2
Into a 100-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed A mixture of methyl 4-[5-methyl-4-(sulfanylmethyl)-1,3-oxazol-2-yl]benzoate (3 g, 11.39 mmol, 1.00 equiv), cescium carbonate (5.13 g, 15.70 mmol, 1.39 equiv) and tert-butyl N-[4-(methanesulfonyloxy)cyclohexyl]carbamate (3.22 g, 10.98 mmol, 1.20 equiv) in N,N-dimethylformamide (30 mL) was stirred at 50° C. for 3 h. The reaction was quenched by the addition of 50 mL of water and the resulting solution was extracted with 3×60 mL of ethyl acetate. The organic combined layers was washed with 2×200 mL of brine, dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was purified on\ a silica gel column eluted with ethyl acetate/petroleum ether (1:15-1:5). The collected fractions were combined and concentrated under vacuum to give 760 mg (14%) of methyl 4-(4-[[(4-[[(tert-butoxy)carbonyl]amino]cyclohexyl)sulfanyl]methyl]-5-methyl-1,3-oxazol-2-yl)benzoate as a yellow solid. LC-MS: (ES, m/z): 461 [M+H]+, 405, 361, 271, 230, 115.

reactant | methyl 4-[5-methyl-4-(sulfanylmethyl)-1,3-oxazol-2-yl]benzoate | 11.39 mmol, 3 g, 1.00 equiv | CC1=C(N=C(O1)C1=CC=C(C(=O)OC)C=C1)CS | C13H13NO3S
reactant | carbonate | 15.70 mmol, 5.13 g, 1.39 equiv | C([O-])([O-])=O
reactant | tert-butyl N-[4-(methanesulfonyloxy)cyclohexyl]carbamate | 10.98 mmol, 3.22 g, 1.20 equiv | CS(=O)(=O)OC1CCC(CC1)NC(OC(C)(C)C)=O | C12H23NO5S
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | methyl 4-(4-[[(4-[[(tert-butoxy)carbonyl]amino]cyclohexyl)sulfanyl]methyl]-5-methyl-1,3-oxazol-2-yl)benzoate | 760 mg, 14% | C(C)(C)(C)OC(=O)NC1CCC(CC1)SCC=1N=C(OC1C)C1=CC=C(C(=O)OC)C=C1 | C24H32N2O5S
